US07282511B2
1-Acetylamino-4-bromo-5,6,7,8-tetrahydronaphthalene
To a mixture of 1-acetylamino-5,6,7,8-tetrahydronaphthalene (1.9 g, 10 mmol) in trifluoroacetic acid (20 ml) was added: bromine (0.55 ml, 10 mmol) solved in acetic acid (5 ml). The mixture was stirred for 15 min at room-temperature. Water (50 ml) was added and the crystals were filtered. Yield 2.6 g (97%). Mp=185.2-188.6° C.

reactant | 1-acetylamino-5,6,7,8-tetrahydronaphthalene | 10 mmol, 1.9 g | C(C)(=O)NC1=CC=CC=2CCCCC12 | C12H15NO
reactant | bromine | 10 mmol, 0.55 ml | BrBr | Br2
reactant | Water | 50 ml | O | H2O
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 1-Acetylamino-4-bromo-5,6,7,8-tetrahydronaphthalene | C(C)(=O)NC1=CC=C(C=2CCCCC12)Br | C12H14BrNO
